US07235572B2
In analogy to the procedure described in example 2 c], (6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-3-propyl-indol-1-yl)-acetic acid tert-butyl ester was treated with LiOH to obtain (6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy]-3-propyl-indol-1-yl)-acetic acid as brown solid.

reactant | (6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-3-propyl-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OCCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CCC)=O | C30H33F3N2O3S
reactant | LiOH | [Li+].[OH-]
product | (6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy]-3-propyl-indol-1-yl)-acetic acid | CC=1N=C(SC1CCOC1=CC=C2C(=CN(C2=C1)CC(=O)O)CCC)C1=CC=C(C=C1)C(F)(F)F | C26H25F3N2O3S
